US04486586
Diphenylmethyl 7-[(Z)-2-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide (VIII-1)
A mixture of diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate (VII-1, 7.8 g, 8.4 mmoles) and triphenylphosphine (4.4 g, 16.8 mmoles) in benzene (160 ml) was stirred at room temperature for 1 hour. The resulting precipitate was collected by filtration to afford 8.0 g of the title compound VIII-1. The mother liquor was concentrated and the residue was triturated with n-hexane to yield an additional amount (1.3 g) of VIII-1. Total yield 9.3 g (93%).

reactant | diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate | 8.4 mmoles, 7.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C46H38IN5O5S2
reactant | triphenylphosphine | 16.8 mmoles, 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | Diphenylmethyl 7-[(Z)-2-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide | 8.0 g | [I-].CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C64H52N5O5PS2.HI/c1-73-68-55(54-44-77-63(65-54)67-64(48-30-14-4-15-31-48,49-32-16-5-17-33-49)50-34-18-6-19-35-50)59(70)66-56-60(71)69-57(62(72)74-58(45-26-10-2-11-27-45)46-28-12-3-13-29-46)47(43-76-61(56)69)42-75(51-36-20-7-21-37-51,52-38-22-8-23-39-52)53-40-24-9-25-41-53;/h2-41,44,56,58,61H,42-43H2,1H3,(H-,65,66,67,70);1H/b68-55-;/t56?,61-;/m1./s1
